US07312241B2
3,5-Dimethoxybenzoyl chloride (5.19 g, 25.87 mmol), 1,2,3-trimethoxybenzene (4.35 g, 25.87 mmol) in anhydrous methylene chloride (40 ml), and aluminum chloride (3.79 g, 28.45 mmol) were treated in the same manner as described above for the synthesis of (2,5-dimethoxy-phenyl)-(3,5-dimethoxy-phenyl)-methanone. The crude material was purified via flash column chromatography (20% EtOAc in hexane) to give (3,5-dimethoxy-phenyl)-(2-hydroxy-3,4-dimethoxy-phenyl)-methanone as a yellow solid (4.15 g, 50%); 1HNMR (CDCl3) δ 12.36 (s, 1H, OH), 7.42 (d, J=9 Hz, 1H, Ar), 6.75 (d, J=2 Hz, 2H, Ar), 6.64 (t, J=2 Hz, 1H, Ar), 6.47 (d, J=9 Hz, 1H, Ar), 3.94 (s, 6H, 2OCH3), 3.84 (s, 6H, 2OCH3); 13C NMR (CDCl3) δ 200.4, 160.7, 158.9, 158.0, 140.1, 136.9, 130.3, 114.6, 107.0, 103.8, 102.9, 60.9, 56.3, 55.7; Anal. Calcd. For C17H18O6: C, 64.14; H, 5.70. Found: C, 64.29; H, 5.42; N, <0.05. The product was carried over to the next step.

reactant | 3,5-Dimethoxybenzoyl chloride | 25.87 mmol, 5.19 g | COC=1C=C(C(=O)Cl)C=C(C1)OC | C9H9ClO3
reactant | 1,2,3-trimethoxybenzene | 25.87 mmol, 4.35 g | COC1=C(C(=CC=C1)OC)OC | C9H12O3
reactant | aluminum chloride | 28.45 mmol, 3.79 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | (2,5-dimethoxy-phenyl)-(3,5-dimethoxy-phenyl)-methanone | COC1=C(C=C(C=C1)OC)C(=O)C1=CC(=CC(=C1)OC)OC | C17H18O5
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | (3,5-dimethoxy-phenyl)-(2-hydroxy-3,4-dimethoxy-phenyl)-methanone | 4.15 g, 50% | COC=1C=C(C=C(C1)OC)C(=O)C1=C(C(=C(C=C1)OC)OC)O | C17H18O6
